US05849735
N-[4-[(5,11-Dihydro-10H-dibenz[b,e][1,4]diazepin-10-yl)carbonyl]-3-chlorophenyl][1,1'-biphenyl]-2-carboxamide
A mixture of 0.196 g of 5,11-dihydro-10H-dibenzo[b,e][1,4]diazepine, 0.155 g of N,N-diisopropylethylamine and 0.444 g of 4-[([1,1'-biphenyl]-2-carbonyl)amino]-2-chlorobenzoyl chloride in 12 ml of dichloromethane is stirred at room temperature overnight. The mixture is poured into water and extracted with dichloromethane. The extract is washed with 2N K2CO3, H2O, brine and dried (Na2 SO4). The solution is filtered through a thin pad of hydrous magnesium silicate. The filtrate is concentrated to dryness and the residue triturated with ether and the solvent removed. The residue is triturated with dichloromethane to give 0.31 g of solid, m.p. 158° C.-184° C. Anal. Found for C33H24ClN3O2 1/2 H2O; C,73.7; H, 4.6; N,7.5; Cl,6.9.

reactant | 5,11-dihydro-10H-dibenzo[b,e][1,4]diazepine | 0.196 g | C1=CC=CC=2NC3=C(NCC21)C=CC=C3 | C13H12N2
reactant | N,N-diisopropylethylamine | 0.155 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-[([1,1'-biphenyl]-2-carbonyl)amino]-2-chlorobenzoyl chloride | 0.444 g | C=1(C(=CC=CC1)C(=O)NC1=CC(=C(C(=O)Cl)C=C1)Cl)C1=CC=CC=C1 | C20H13Cl2NO2
reactant | water | O | H2O
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | N-[4-[(5,11-Dihydro-10H-dibenz[b,e][1,4]diazepin-10-yl)carbonyl]-3-chlorophenyl][1,1'-biphenyl]-2-carboxamide | 0.31 g | C1=CC=CC=2NC3=C(N(CC21)C(=O)C2=C(C=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)Cl)C=CC=C3 | C33H24ClN3O2
